US07795262B2
Step 3. Preparation of 5,6,7,8-tetrahydro-1,6-naphthyridin-2(1H)-one
To a solution of 6-benzyl-5,6,7,8-tetrahydro-1,6-naphthyridin-2(1H)-one (400 mg, 1.66 mmol) in EtOH (30 mL) is added 20% Pd(OH)2/C (20 mg) and the mixture is hydrogenated at 50 psi at rt overnight. The catalyst is filtered and the filtrate is concentrated to give the title compound as a light yellow solid. MS (M+1): 151.1

reactant | 6-benzyl-5,6,7,8-tetrahydro-1,6-naphthyridin-2(1H)-one | 1.66 mmol, 400 mg | C(C1=CC=CC=C1)N1CC=2C=CC(NC2CC1)=O | C15H16N2O
solvent | EtOH | 30 mL | CCO | C2H6O
catalyst | Pd(OH)2/C | 20 mg | [OH-].[OH-].[Pd+2]
product | 5,6,7,8-tetrahydro-1,6-naphthyridin-2(1H)-one | N1C(C=CC=2CNCCC12)=O | C8H10N2O
